US04014920
18.0 g (0.06 mol) of 4-acetoxy-α-acetylamino-3-methoxy-cinnamic acid are heated with 30 ml of quinoline and 1.2 g of copper powder to 160°-170° C for 3 hours, in the course of which carbon dioxide is evolved. Thereafter, the quinoline is distilled off under reduced pressure and the residual mass is taken up in ethyl acetate. After filtering off the copper powder, the ethyl acetate solution is extracted with 25 ml of 1 N hydrochloric acid and is then washed with water and subsequently with sodium bicarbonate solution. The organic phase is dried over sodium sulphate and thereafter the solvent is removed by distillation under reduced pressure. The resulting oil yields 4-(2-acetylaminovinyl)-2-methoxy-acetoxy-benzene, of melting point 169°-170° C, from ethyl acetate.

reactant | 4-acetoxy-α-acetylamino-3-methoxy-cinnamic acid | 0.06 mol, 18.0 g | C(C)(=O)OC1=C(C=C(C=C(C(=O)O)NC(C)=O)C=C1)OC | C14H15NO6
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | copper | 1.2 g | [Cu] | Cu
solvent | quinoline | 30 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 4-(2-acetylaminovinyl)-2-methoxy-acetoxy-benzene | C(C)(=O)NC=CC1=CC=C(C=C1)OC(COC)=O | C13H15NO4
